US07576215B2
{4′-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-1,1′-BIPHENYL-3-YL}ACETIC ACID
This compound was prepared according to the procedure of example 66, substituting [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone and (4′-formylbiphenyl-3-yl)-acetic acid methyl ester. MS (ESI) m/z 615.

reactant | [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | (4′-formylbiphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C=CC1)C1=CC=C(C=C1)C=O)=O | C16H14O3
product | {4′-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-1,1′-BIPHENYL-3-YL}ACETIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(C=C1)C1=CC(=CC=C1)CC(=O)O)C(F)(F)F | C38H27F3N2O3
